US05109013
3,4-Dihydro-1,4-dimethyl-2-[2-(methylphenylamino)ethyl]-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one
To 15 mL of N-methylaniline was added 3.0 g (0.01 mol) of 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one. The reaction was heated at 60° C. for 1.5 hr, then 100° C. for ~48 hr. The N-methylaniline was removed by distillation. The residue was dissolved in 100 mL of CH2Cl2, washed with 2×100 mL of 1N NaOH and dried over Na2SO4. The organic phase was filtered and concentrated by rotary evaporation. The residue was then heated to 100° C., 0.5 mm Hg to remove any residual starting amine. The crude syrup was crystallized from toluene/iso-octane to afford 2.0 g (55%) of white analytically pure crystals, mp 74°-90° C.

reactant | N-methylaniline | 15 mL | CNC1=CC=CC=C1 | C7H9N
reactant | 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 0.01 mol, 3.0 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
product | 3,4-Dihydro-1,4-dimethyl-2-[2-(methylphenylamino)ethyl]-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | CN1C(CN(C(N2C1=NC1=C2C=CC=C1)=O)C)CCN(C1=CC=CC=C1)C | C21H25N5O
